US05807927
334.33 g (2.0 mol) of 3-(3-methyl-2,4-dioxoimidazolidin-1-yl)propionitrile, prepared as described in Example 5, are hydrolysed for 5 hours and 30 minutes at 96°-107° C. in a mixture of 1482.7 g (13.0 mol) of aqueous 32% hydrochloric acid and 288.3 g (4.8 mol) of acetic acid. The reaction solution is then evaporated at 90° C. under reduced pressure in a rotary evaporator and dried at 120° C./0.1 mbar to constant weight, giving 354.1 g (95.1% of theory) of crude product, which is purified by recrystallization from 1 liter of ethyl acetate, giving 184 g (50.4% of theory) of crystalline 3-(3-methyl-2,4-dioxoimidazolidin-1-yl)propionic acid having a melting point of 109° C.

reactant | 3-(3-methyl-2,4-dioxoimidazolidin-1-yl)propionitrile | 2.0 mol, 334.33 g | CN1C(N(CC1=O)CCC#N)=O | C7H9N3O2
reactant | hydrochloric acid | Cl | ClH
reactant | acetic acid | 4.8 mol, 288.3 g | C(C)(=O)O | C2H4O2
product | 3-(3-methyl-2,4-dioxoimidazolidin-1-yl)propionic acid | 184 g, 50.4% | CN1C(N(CC1=O)CCC(=O)O)=O | C7H10N2O4
